US04742052
To a solution of 1-(p-nitrobenzyloxycarbonyl)-4-hydroxypiperidine (10.54 g) in dry pyridine (105 ml) was added p-toluenesulfonyl chloride (14.35 g) at 0° C., followed by stirring at 25° C. for 23 hours. The reaction mixture was diluted with water and extracted with diethyl ether-dichloromethane (9:1). The extract was washed successively with saturated aqueous sodium chloride, 1N hydrochloric acid, saturated aqueous sodium chloride and saturated aqueous sodium bicarbonate, dried over anhydrous sodium suflate and evaporated to give 1-(p-nitrobenzyloxycarbonyl)-4-(p-toluenesulfonyloxy)piperidine.

reactant | 1-(p-nitrobenzyloxycarbonyl)-4-hydroxypiperidine | 10.54 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)O)C=C1 | C13H16N2O5
reactant | p-toluenesulfonyl chloride | 14.35 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 105 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-(p-nitrobenzyloxycarbonyl)-4-(p-toluenesulfonyloxy)piperidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)OS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C20H22N2O7S
